US07727979B2
2-guanidino-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid tert-butyl ester
Analogously to the preparation of Example C-01, 3-bromo-4-oxo-piperidine-1-carboxylic acid tert-butyl ester is reacted with 2-imino-4-thiobiuret to form the title compound. tR 2.55 min (LC-1); ESI-MS (+): m/z 298.25 [M+H]+.

reactant | 3-bromo-4-oxo-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C(CC1)=O)Br | C10H16BrNO3
reactant | 2-imino-4-thiobiuret | C(=NC(=S)N)(N)N | C2H6N4S
product | 2-guanidino-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=C(CC1)N=C(S2)NC(=N)N | C12H19N5O2S
